US07585885B2
2-Chloro-6-methane-sulfonylamino-isonicotinic acid methyl ester
Add methyl 2,6-dichloro-isonicotinate (2.06 g, 10.0 mmol), toluene (10 mL), tris(dibenzylideneacetone)dipalladium(0) (0.458 g, 0.50 mmol), 2-(di-tert-butylphosphino)biphenyl (0.298 g, 1.00 mmol), and methanesulfonamide sodium salt (1.17 g, 10.0 mmol) to a sealed flask flushed with nitrogen. Heat and stir the sealed flask at 100° C. for 18 h. Cool the mixture to room temperature and filter through a pad of filtering agent, and wash the solid with dichloromethane. Concentrate and purify (silica gel chromatography, eluting with 20:80 to 30:70 ethyl acetate:hexanes) to give the title compound (1.31 g, 50%).

reactant | methyl 2,6-dichloro-isonicotinate | 10.0 mmol, 2.06 g | ClC=1C=C(C(=O)OC)C=C(N1)Cl | C7H5Cl2NO2
reactant | 2-(di-tert-butylphosphino)biphenyl | 1.00 mmol, 0.298 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | methanesulfonamide sodium salt | 10.0 mmol, 1.17 g | [Na+].CS(=O)(=O)[NH-]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.50 mmol, 0.458 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-6-methane-sulfonylamino-isonicotinic acid methyl ester | 1.31 g, 50% | COC(C1=CC(=NC(=C1)NS(=O)(=O)C)Cl)=O | C8H9ClN2O4S
